US04996320
To a 30 ml anhydrous acetonitrile solution containing 0.71 g (8.98 mmole) of pyridine a mixed gas of fluorine and nitrogen (1:9) was introduced at a rate of 20 ml/min. at -40° C. under vigorous stirring, the amount of fluorine gas introduced being 26 mmoles. Subsequently, at the same temperature, 1 ml (8.13 mmole) of an ethereal complex of boron trifluoride as the Lewis acid was added and the resulting solution was stirred for 5 hours. The post treatment was effected as in example 13 to give 0.91 g (yield: 69%) of N-fluoropyridinium tetrafluoroborate, the physical properties of which are reproduced in Table 6.

reactant | pyridine | 8.98 mmole, 0.71 g | N1=CC=CC=C1 | C5H5N
reactant | fluorine | FF | F2
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-fluoropyridinium tetrafluoroborate | 0.91 g, yield: 69% | F[B-](F)(F)F.F[N+]1=CC=CC=C1 | InChI=1S/C5H5FN.BF4/c6-7-4-2-1-3-5-7;2-1(3,4)5/h1-5H;/q+1;-1
